US06008230
To a solution of 2-mercaptoimidazole (27.4 mg) in dimethylformamide (1.5 ml) was added potassium carbonate (51.6 mg) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature. To the mixture was added 4-bromomethyl-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (120 mg) under ice-cooling, and the mixture was stirred for 1 hour at ambient temperature. To the mixture was added water under ice-cooling, and the resulting precipitate was collected by filtration and washed with water to give 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonyl-4-[(imidazol-2-yl)thiomethyl]quinoline (115 mg).

reactant | 2-mercaptoimidazole | 27.4 mg | SC=1NC=CN1 | C3H4N2S
reactant | potassium carbonate | 51.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 120 mg | BrCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)OCC | C20H15BrCl2N2O3
reactant | water | O | H2O
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonyl-4-[(imidazol-2-yl)thiomethyl]quinoline | 115 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)C(=O)OCC)CSC=2NC=CN2)C(=CC=C1)Cl | C23H18Cl2N4O3S
